US06737435B1
N-(3,4-dichlorophenylsulphonyl)-5-hydroxyindole-2-carboxylic acid
A solution of anhydrous lithium iodide (870 mg) and methyl_N-(3,4-dichlorophenylsulphonyl)-5-hydroxyindole-2-carboxylate (260 mg) in pyridine (15 ml) was stirred at reflux for 4 hours. The reaction was cooled and concentrated in vacuo. The residue was dissolved in water (20 ml) and acidified with acetic acid. The product was extracted with ethyl acetate and the combined extracts were dried, concentrated in vacuo and the residue purified by column chromatography using dichloromethane-50% ethyl acetate containing 1% acetic acid as eluent to give the desired product as a glass (72 mg, 29%). NMR: δ 6.9 (m, 2H), 7.25 (s, 1H), 7.85 (d, 1H), 7.9 (m, 2H), 8.15 (s, 1H), 9.5 (s, 1H); m/z 385.8 (M−H−). The starting material was prepared by

reactant | lithium iodide | 870 mg | [I-].[Li+]
reactant | methyl_N-(3,4-dichlorophenylsulphonyl)-5-hydroxyindole-2-carboxylate | 260 mg | COC(=O)C=1N(C2=CC=C(C=C2C1)O)S(=O)(=O)C1=CC(=C(C=C1)Cl)Cl | C16H11Cl2NO5S
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N-(3,4-dichlorophenylsulphonyl)-5-hydroxyindole-2-carboxylic acid | 72 mg, 29% | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(=CC2=CC(=CC=C12)O)C(=O)O | C15H9Cl2NO5S
